US05225570
To a cooled stirring solution of 15 grams (0.25 mol) nitromethane and 0.35 gram (0.005 mol) diethylamine in 26 milliliters of ethanol was added dropwise 10 grams (0.093 mol) 3-pyridine carboxaldehyde. The reaction was stirred for 3 hours at 0° C. then warmed to ambient temperature. Concentration yielded crude 1-(3-pyridyl)-2-nitroethanol.

reactant | nitromethane | 0.25 mol, 15 grams | [N+](=O)([O-])C | CH3NO2
reactant | diethylamine | 0.005 mol, 0.35 gram | C(C)NCC | C4H11N
reactant | 3-pyridine carboxaldehyde | 0.093 mol, 10 grams | N1=CC(=CC=C1)C=O | C6H5NO
solvent | ethanol | 26 milliliters | C(C)O | C2H6O
product | 1-(3-pyridyl)-2-nitroethanol | N1=CC(=CC=C1)C(C[N+](=O)[O-])O | C7H8N2O3
